US06743776B2
To a solution of N-(4-n-pentyloxybenzoyl)-N,O-dimethylhydroxylamine (4.52 g) in tetrahydrofuran (25 ml) was added 1.6 molar tetrahydrofuran solution of vinylmagnesium bromide (25.5 ml) at −50° C. dropwise and the mixture was stirred for 3 hours at −20° C. To the mixture was added 1N HCl (50 ml) dropwise and the mixture was extracted with ethyl acetate. The organic layer was separated, washed with brine, dried over magnesium sulfate and evaporated under reduced pressure. The residue was purified with silica gel column chromatography (hexane/ethyl acetate)=(8/2) to give 1-(4-n-pentyloxyphenyl)acrolein (2.40 g).

reactant | N-(4-n-pentyloxybenzoyl)-N,O-dimethylhydroxylamine | 4.52 g | C(CCCC)OC1=CC=C(C(=O)N(OC)C)C=C1 | C14H21NO3
reactant | vinylmagnesium bromide | 25.5 ml | C(=C)[Mg]Br
reactant | HCl | 1N, 50 ml | Cl | ClH
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1.6 molar | O1CCCC1 | C4H8O
product | 1-(4-n-pentyloxyphenyl)acrolein | 2.40 g | C(CCCC)OC1=CC=C(C=C1)C(=O)C=C | C14H18O2
